US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)imidazolidin-2-one (17A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.492 mmol) was reacted with 5-bromo-2,2-difluorobenzo[d][1,3]dioxole (128.4 mg, 0.541 mmol), 1,4-dioxane (5 mL), copper iodide (9.3 mg, 0.049 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (5.6 mg, 0.049 mmol) and potassium phosphate (313.6 mg, 1.447 mmol) to afford the crude product. Purification by column chromatography on silica gel (2.0% methanol in CHCl3) afforded 105 mg of the product (60% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.492 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 5-bromo-2,2-difluorobenzo[d][1,3]dioxole | 0.541 mmol, 128.4 mg | BrC1=CC2=C(OC(O2)(F)F)C=C1 | C7H3BrF2O2
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.049 mmol, 5.6 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.447 mmol, 313.6 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.049 mmol, 9.3 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)imidazolidin-2-one | 105 mg, 60% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)=O | C18H15F2N3O3
